US07629358B2
Preparation 34: 3-(2-amino-2-methylpropyl)benzoic acid methyl ester
A solution of 3-(2-tert-butoxycarbonylamino-2-methylpropyl)benzoic acid methyl ester (Preparation 33) (1.6 g, 5.2 mmol) in dichloromethane (160 ml) at 0° C. was treated with trifluoroacetic acid (13.6 ml) and left to warm to room temperature over 2 hours. The solvent was removed in vacuo and the product purified by cation exchange chromatography (methanol followed by 2M ammonia in methanol) to yield the title compound as an amber oil (1.06 g).

reactant | 3-(2-tert-butoxycarbonylamino-2-methylpropyl)benzoic acid methyl ester | 5.2 mmol, 1.6 g | COC(C1=CC(=CC=C1)CC(C)(C)NC(=O)OC(C)(C)C)=O | C17H25NO4
reactant | trifluoroacetic acid | 13.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 3-(2-amino-2-methylpropyl)benzoic acid methyl ester | 1.06 g | COC(C1=CC(=CC=C1)CC(C)(C)N)=O | C12H17NO2
